* Schematics Netlist *



D_D1         $N_0001 $N_0002 D1N4002 
Q_Q1         $N_0002 $N_0003 0 Q2N2222
R_R9         0 $N_0003  1k  
R_R12         $N_0001 $N_0004  1k  
X_U1         $N_0005 $N_0006 $N_0004 0 $N_0007 uA741
R_R3         0 $N_0006  20k  
R_R4         $N_0005 $N_0004  12k  
R_R5         0 $N_0005  12k  
R_R6         $N_0005 $N_0007  27k  
R_R7         $N_0007 $N_0003  4.7k  
V_V1         $N_0004 0 12
R_R2         $N_0006 $N_0004  {Rs}  
